US08389524B2
7-{[(1-{[(2R)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl]methyl}-4-piperidinyl)amino]methyl}-2,3-dihydro-1,4-benzodioxin-5-carbonitrile hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (60 mg, 0.199 mmol) and 7-formyl-2,3-dihydro-1,4-benzodioxin-5-carbonitrile (for a synthesis see WO06014580 Preparation 13 or WO2007122258, Example 31(d)) (37.7 mg, 0.199 mmol) in chloroform (2 ml) and methanol (0.100 ml) at room temperature under nitrogen was treated with sodium triacetoxyborohydride (127 mg, 0.597 mmol) and stirred for 90 min. This was then treated with saturated aqueous NaHCO3(10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic extracts were dried (NaSO4), filtered, evaporated and purified using silica chromatography (0-20% methanol/DCM) to give the free base of the title compound as a yellow gum (40 mg, 42.3%).

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 7-formyl-2,3-dihydro-1,4-benzodioxin-5-carbonitrile | C(=O)C=1C=C(C2=C(OCCO2)C1)C#N | C10H7NO3
reactant | sodium triacetoxyborohydride | 0.597 mmol, 127 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | 7-{[(1-{[(2R)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl]methyl}-4-piperidinyl)amino]methyl}-2,3-dihydro-1,4-benzodioxin-5-carbonitrile hydrochloride | 40 mg, 42.3% | Cl.O=C1N2[C@@H](CN3C(C=CC(N=C1)=C32)=O)CN3CCC(CC3)NCC=3C=C(C2=C(OCCO2)C3)C#N | InChI=1S/C25H26N6O4.ClH/c26-11-17-9-16(10-21-24(17)35-8-7-34-21)12-27-18-3-5-29(6-4-18)14-19-15-30-22(32)2-1-20-25(30)31(19)23(33)13-28-20;/h1-2,9-10,13,18-19,27H,3-8,12,14-15H2;1H/t19-;/m1./s1
